US08022062B2
Dissolve (±)-7-chloro-6-[4-(2,2,2-trifluoro-1-methyl-ethylaminocarbonyl)-benzylamino]-2,3,4,5-tetrahydro-1H-benzo[d]azepine (472 mg, 1.11 mmol) in DCM (50 mL) and add di-tert-butyl-dicarbonate (300 mg, 1.34 mmol) and a solution of sodium carbonate (2 g) in water (50 mL). Stir the reaction at room temperature for 2 h then dilute with DCM, wash with water, dry over Na2SO4, filter and concentrate. Purify by chromatography on silica gel eluting with hexane/EtOAc (10:1, 5:1 and 3:1) to give (±)-3-tert-butoxycarbonyl-7-chloro-6-[4-(2,2,2-trifluoro-1-methyl-ethylaminocarbonyl)-benzylamino]-2,3,4,5-tetrahydro-benzo[d]azepine (330 mg, 57%).

reactant | (±)-7-chloro-6-[4-(2,2,2-trifluoro-1-methyl-ethylaminocarbonyl)-benzylamino]-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.11 mmol, 472 mg | ClC1=C(C2=C(CCNCC2)C=C1)NCC1=CC=C(C=C1)C(=O)NC(C(F)(F)F)C | C21H23ClF3N3O
reactant | di-tert-butyl-dicarbonate | 1.34 mmol, 300 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium carbonate | 2 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | (±)-3-tert-butoxycarbonyl-7-chloro-6-[4-(2,2,2-trifluoro-1-methyl-ethylaminocarbonyl)-benzylamino]-2,3,4,5-tetrahydro-benzo[d]azepine | 330 mg, 57% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)NCC2=CC=C(C=C2)C(=O)NC(C(F)(F)F)C | C26H31ClF3N3O3
